datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([c:33]1[c:34]([H:41])[c:35]([H:42])[c:36]([H:43])[c:37]([H:44])[c:38]1[H:45])([H:39])[H:40]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:32]([c:33]1[c:34]([H:41])[c:35]([H:42])[c:36]([H:43])[c:37]([H:44])[c:38]1[H:45])([H:39])[H:40])([H:16])([H:17])[H:18],51.003
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])=[C:5]([C:6]([H:10])([H:11])[H:12])[H:9])[H:7].[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[C:5]([C:6]([H:10])([H:11])[H:12])([H:9])[H:13])[H:7],0.79496
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([O:6][O:7][H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([O:6])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],175.728
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[O:3])[H:7])([H:6])[C:8]([H:9])([H:10])[H:11])([H:4])[H:5],32.6352
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:23]([H:24])([H:25])[H:26])[H:13])([H:11])[H:12],28.3257
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],93.3032
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:17](=[C:18]([H:20])[H:21])[H:19])[H:10])[H:9])([H:7])[H:8],4.97896
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:9][H:10],-11.154544
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19],17.5728
[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])([H:11])[H:19],110.4576
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7]=[C:8][S:9][H:10]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8](=[S:7])[S:9][H:10],48.5344
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6](=[C:7]([H:9])[H:10])[H:8],-8.7864
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][O:24][O:25],199.11656
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],63.3876
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:15])([H:3])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])([H:12])([H:13])[H:14],-0.4184
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][H:21],18.627168
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:6],58.1158
